US07332501B2
1′-{[6-Chloro-1-(piperidin-1-ylcarbonyl)-1H-indol-3-yl]carbonyl}-3H-spiro[2-benzofuran-1,4′-piperidine]
Following the general procedure V as described hereinabove, the alkylation of 1′-[(6-chloro-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidine] (the preparation of which have been described in example 69) with commercially available piperidine-1-carbonyl chloride as electrophile, the title compound was obtained as a white powder.

reactant | 1′-[(6-chloro-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidine] | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC2(CC1)OCC1=C2C=CC=C1 | C21H19ClN2O2
reactant | piperidine-1-carbonyl chloride | N1(CCCCC1)C(=O)Cl | C6H10ClNO
product | 1′-{[6-Chloro-1-(piperidin-1-ylcarbonyl)-1H-indol-3-yl]carbonyl}-3H-spiro[2-benzofuran-1,4′-piperidine] | ClC1=CC=C2C(=CN(C2=C1)C(=O)N1CCCCC1)C(=O)N1CCC2(CC1)OCC1=C2C=CC=C1 | C27H28ClN3O3
